US05834463
(3aR*,10aS*)-9-(1-Naphthylmethyl)-4-(phthalimidoacetyl) -2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a suspension of (3aR*,10aS*)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (391 mg, 1.0 mmol) in N,N-dimethylformamide (3 mL) was added sodium hydride (60% liquid paraffin dispersion, 44 mg, 1.1 mmol). The mixture was stirred for 10 minutes at 28° C., to which was added 1-(chloromethyl) naphthalene(213 mg, 1.2 mmol), followed by stirring for 20 minutes at the same temperature. To the reaction mixture was added water (5 mL), and the mixture was subjected to extraction twice with chloroform. The organic layers were combined and washed with water, dried over magnesium sulfate, followed by filtration and concentration under reduced pressure. The concentrate was crystallized from ethanol to give 177 mg (yield 33%) of the titled compound, m.p. 266°-270° C.

reactant | (3aR*,10aS*)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 1.0 mmol, 391 mg | C1(C=2C(C(N1CC(=O)N1C3=C(NC([C@@H]4[C@H]1CCC4)=O)C=CC=C3)=O)=CC=CC2)=O | C22H19N3O4
reactant | sodium hydride | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 1-(chloromethyl) naphthalene | 1.2 mmol, 213 mg | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | water | 5 mL | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | (3aR*,10aS*)-9-(1-Naphthylmethyl)-4-(phthalimidoacetyl) -2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 177 mg, yield 33% | C1(=CC=CC2=CC=CC=C12)CN1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CN3C(C=1C(C3=O)=CC=CC1)=O)=O)C=CC=C2 | C33H27N3O4
